US07605169B2
a) (±)-1,1-dimethylethyl (3aR,5S,6aR)-2-(phenylmethyl)hexahydro-2H-cyclopenta[d]isoxazole-5-carboxylate
To a solution of 1,1-dimethylethyl 3-cyclopentene-1-carboxylate (8.4 g, 50.0 mmole) [JACS, 1983, 105, 2435-2439] in toluene (150 mL) and EtOH (75 mL) was added paraformaldehyde (11.0 g, 250 mmole), N-hydroxybenzylamine hydrochloride (11.8 g, 75 mmole) and triethylamine (10.4 mL, 75 mmole). After 24 hours at 80° C., the reaction solution was concentrated under vacuum and redissolved in hexanes/EtOAc, 4:1 (200 mL) and filtered. The organic solution was concentrated and then purified on silica (hexanes/EtOAc, 4:1) to give the title compound (13.0 g, 86%) as a light yellow oil: LC-MS (ES) m/e 304 (M+H)+.

reactant | 1,1-dimethylethyl 3-cyclopentene-1-carboxylate | 50.0 mmole, 8.4 g | C1(CC=CC1)C(=O)OC(C)(C)C | C10H16O2
reactant | paraformaldehyde | 250 mmole, 11.0 g | C=O | CH2O
reactant | N-hydroxybenzylamine hydrochloride | 75 mmole, 11.8 g | Cl.ONCC1=CC=CC=C1
reactant | triethylamine | 75 mmole, 10.4 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 75 mL | CCO | C2H6O
product | (±)-1,1-dimethylethyl (3aR,5S,6aR)-2-(phenylmethyl)hexahydro-2H-cyclopenta[d]isoxazole-5-carboxylate | 13.0 g, 86% | C1(=CC=CC=C1)CN1O[C@H]2[C@@H](C1)C[C@@H](C2)C(=O)OC(C)(C)C | C18H25NO3
